2108-11-26 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2108-11-26**] 12:00 AM
   recieved pt with rt groin line from [**Hospital3 **]. line noted to have
   pulsating blood flow and bright red blood return. blood gasw from [**Doctor First Name **]
   po2 94% pco2 43%.  prob art placement.  slowed infusions of levophed
   support blood press to a low a vol possible until new line placed.
   attempted PIV x2 without success.
 MULTI LUMEN - START [**2108-11-26**] 02:34 AM
 ARTERIAL LINE - STOP [**2108-11-26**] 06:03 AM
   recieved pt with rt groin line from [**Hospital3 **]. line noted to have
   pulsating blood flow and bright red blood return. blood gasw from [**Doctor First Name **]
   po2 94% pco2 43%.  prob art placement.  slowed infusions of levophed
   support blood press to a low a vol possible until new line placed.
   attempted PIV x2 without success.
   o/n:
   CVL placed in right IJ
   pulled arterial line
   Allergies:
   Codeine
   Unknown;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2108-11-26**] 05:00 AM
   Vancomycin - [**2108-11-26**] 05:30 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   500 mL NS 3. Acetaminophen 4. Clopidogrel 5. Dextrose 50% 6. Glucagon
   7. Heparin 8. Insulin
   9. Norepinephrine 10. Paroxetine 11. Piperacillin-Tazobactam 12.
   Piperacillin-Tazobactam 13. Piperacillin-Tazobactam
   14. Pneumococcal Vac Polyvalent 15. Polyethylene Glycol 16. Senna 17.
   Sodium Chloride 0.9% Flush
   18. Vancomycin 19. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no abd pain, no n/v, no groin pain, no cp/sob
   Flowsheet Data as of  [**2108-11-26**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.3
C (95.5
   Tcurrent: 35.3
C (95.5
   HR: 65 (56 - 72) bpm
   BP: 91/45(55) {83/45(55) - 99/50(62)} mmHg
   RR: 13 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,059 mL
   PO:
             TF:
   IVF:
   1,059 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    255 mL
   Urine:
                                                                    400 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                    804 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.29/46/94.[**Numeric Identifier 433**]/27/-4
   Physical Examination
   Gen: NAD
   CV: RRR 2/6 SEM at RUSB, nl s1/s2
   Pulm: cta b/l
   Abd: +BS, soft NTND
   Ext: warm b/l, no femoral bruit or hematoma on the right
   Labs / Radiology
   119 K/uL
   9.4 g/dL
   120 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   22 mg/dL
   107 mEq/L
   140 mEq/L
   28.5 %
   9.6 K/uL
        [image002.jpg]
                            [**2108-11-26**]  12:07 AM
                            [**2108-11-26**]  05:19 AM
   WBC
   9.6
   Hct
   28.5
   Plt
   119
   Cr
   0.9
   TropT
   0.03
   TCO2
   23
   Glucose
   120
   Other labs: PT / PTT / INR:14.7/28.8/1.3, CK / CKMB /
   Troponin-T:92/4/0.03, ALT / AST:144/65, Alk Phos / T Bili:152/3.6,
   Differential-Neuts:86.4 %, Lymph:9.3 %, Mono:4.1 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:161 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Microbiology: blood ctx [**11-26**] pending
   urine ctx [**11-26**] pending
   blood ctx from [**Hospital3 474**] GNR
   Assessment and Plan
 CHOLECYSTITIS, CALCULOUS
   [**Age over 90 **] yo F with history of CAD, subdural hematoma who presented to [**Hospital1 536**] on [**2108-11-24**] with epigastric abdominal pain, vomiting, and
   abnormal LFTs.
   #. Fevers / hypotension:
   Likely sepsis related to acute cholangitis given fevers, bandemia,
   abdominal pain, LFT elevations to the 200s, and MRCP findings of CBD
   debris. ERCP will be definitive treatment if this is acute colangitis;
   and patient is now agreeing to procedure. Additionally, could consider
   that patient has sepsis of urinary origin given she has a known UTI
   with gram positive cocci.
   - Appreciate ERCP recs
   - Keep patient on Zosyn for cholangitis and UTI coverage
   - Added Vancomycin [**11-25**] for additional empiric coverage for presumed
   cholangitis and sepsis of unclear etiology
   - Hold home antihypertensives
   - Titrate levophed dosing to acheive MAP > 65
   - Check CVP then consider bolus with IVF to attempt to liberate patient
   from levophed, however with good UOP, mentation now seems that patient
   is euvolemic
   - [**Hospital **] [**Hospital3 **] blood and urine culture data
   - Obtain new urine and blood cultures here
   - obtain new aline
   #. Coronary artery disease:
   Patient received three troponins at [**Hospital3 474**]. The first two were
   only 0.03, though the third trop at [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] to 0.15. Possible that
   this was a trop leak in the setting of hypotension and resulting demand
   ischemia, though must rule out ACS as cause of hypotension and observed
   HCT drop.
   - EKG this AM
   - Continue home clopidogrel
   - Hold isosorbide mononitrate, lisinopril, atenolol while patient
   hypotensive and requiring pressors
   #  thrombocytopenia: unclear etiology though is on heparin sc
   - recheck in pm
   # goals of care: patient expresses passive refusal of procedures like
   ERCP as she states that she does not want to live any more.  She also
   endorses depression and crying spells.  Patient agrees to most specific
   procedures on ICU consent form though does not want compressions or
   shock because she states she witnessed a hospital roommate experience
   this.  Theses seem like two different issues and the team agrees that
   if the patient is refuses a potentially life-saving procedure, she
   should be made full aware of the risks and benefits and this should be
   discussed with her son, her HCP.  Regarding DNR status, it seems that
   this has been reached through thoughtful consideration on the patient
   part and we should facilitate the communication of this wish between
   patient and her HCP.
   #. Diabetes:
   - Diabetic diet
   - Q6H fingersticks
   - Hold glipizide and give HISS
   ICU Care
   Nutrition: NPO for now, to ERP today
   Lines:
   Arterial Line - [**2108-11-26**] 12:00 AM
   22 Gauge - [**2108-11-26**] 12:36 AM
   Multi Lumen - [**2108-11-26**] 02:34 AM
   Prophylaxis:
   -DVT ppx with heparin subcutaneous, currently holding for ERCP
   -Bowel regimen with miralex and senna
   -Pain management with acetaminophen
   Communication:  With patient and [**Name (NI) **] son, [**Name (NI) 532**] [**Name (NI) 9864**]:
   [**Telephone/Fax (1) 9865**]
   Code status:  Patient expressed desire to be DNR, no CPR, though would
   allow short term intubation for a short period of time.
   Disposition:  ICU while requiring vasopressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-11-26**] 12:36 AM
   Multi Lumen - [**2108-11-26**] 02:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR but can intubate ( this should be reviewed with son
   as well)
   Disposition: ICU for now

2108-11-27 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2108-11-26**] 10:00 AM
   - Went to ERCP, saw sludge and some stones, placed a stent, ERCP said
   to keep her on clear liquids
   - Had hypotension post-procedure, restarted pressor and gave 500cc
   bolus.  Then 500cc again x 2.
   - Dr. [**First Name (STitle) **] (PCP) left office early so couldn't be reached, will be
   at [**Hospital3 **] at 8am tomorrow, and at office by noon
   - Consider TTE tomorrow
   - [**Hospital3 **] culture data: Blood culture [**11-25**] grew GNR, no
   speciation yet
   - A-line very positional and [**Location (un) 103**] low overnight but BP came up as
   soon as we moved her arm.
   levophed off as of 230 am, BPS 90s-100s/40s since
   Allergies:
   Codeine
   Unknown;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-11-26**] 05:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-11-27**] 06:12 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-11-26**] 09:42 PM
   Other medications:
   500 mL NS 3. 500 mL NS 4. 500 mL NS 5. Acetaminophen 6. Alprazolam 7.
   Clopidogrel 8. Dextrose 50%
   9. Glucagon 10. Heparin 11. Insulin 12. Norepinephrine 13. Paroxetine
   14. Piperacillin-Tazobactam
   15. Piperacillin-Tazobactam 16. Pneumococcal Vac Polyvalent 17.
   Polyethylene Glycol 18. Potassium Chloride
   19. Senna 20. Sodium Chloride 0.9% Flush 21. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no abd pain, no n/v, no CP, no sob, passing gas
   Flowsheet Data as of  [**2108-11-27**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 87 (64 - 96) bpm
   BP: 103/46(67) {80/38(55) - 151/91(117)} mmHg
   RR: 23 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (-2 - 11)mmHg
   Total In:
                                                                  3,221 mL
                                                                    807 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                  2,621 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    395 mL
   Urine:
                                                                    930 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,291 mL
                                                                    412 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   Gen: NAD
   CV: 2/6 SEM nl s1/s2 reg rate; no femoral bruit or hematoma
   Pulm: mild crackles at bases b/l
   Abd: +BS, soft, NTND
   Ext: warm, no edema, 2+ DPs b/l
   Labs / Radiology
   128 K/uL
   9.0 g/dL
   82 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.5 mEq/L
   22 mg/dL
   110 mEq/L
   142 mEq/L
   27.5 %
   9.9 K/uL
         [image002.jpg]
                            [**2108-11-26**]  12:07 AM
                            [**2108-11-26**]  05:19 AM
                            [**2108-11-26**]  02:15 PM
                            [**2108-11-27**]  03:05 AM
   WBC
   9.6
   9.9
   9.9
   Hct
   28.5
   28.0
   27.5
   Plt
   119
   128
   128
   Cr
   0.9
   0.7
   TropT
   0.03
   TCO2
   23
   Glucose
   120
   82
   Other labs: PT / PTT / INR:12.6/25.5/1.1, CK / CKMB /
   Troponin-T:92/4/0.03, ALT / AST:94/34, Alk Phos / T Bili:140/2.2,
   LDH:161 IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Microbiology: [**11-26**] urine pending
   [**11-26**] blood pending
   blood OSH GNR
   urine OSH GPC
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHEST PAIN
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 DIABETES MELLITUS (DM), TYPE II
 .H/O HYPERTENSION, BENIGN
 DEPRESSION
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 CHOLECYSTITIS, CALCULOUS
   [**Age over 90 **] yo F with history of CAD, subdural hematoma who presented to [**Hospital1 536**] on [**2108-11-24**] with epigastric abdominal pain, vomiting, and
   abnormal LFTs.
   #. GNR bacteremia: s/p ERCP with stent placement [**11-26**].
   Likely sepsis related to acute cholangitis given fevers, bandemia,
   abdominal pain, LFT elevations to the 200s, and ERCP findings of puss,
   stones and sludge.
   - Appreciate ERCP recs
   - Keep patient on Zosyn for cholangitis and UTI coverage
   - Added Vancomycin [**11-25**] for additional empiric coverage for presumed
   cholangitis and sepsis of unclear etiology
   - Hold home antihypertensives
   - [**Hospital **] [**Hospital3 **] blood and urine culture data
   - PICC line eval
   #. hypotension
    - gentle fluid boluses- consider LR given decrease in bicarb- if
   hypotensive then titrate levophed dosing to acheive MAP > 65
   - antibiotics for bacteremia as above
   #. Coronary artery disease:
   - f/u echo
   - Continue home clopidogrel
   - Hold isosorbide mononitrate, lisinopril, atenolol while patient
   hypotensive and requiring pressors
   #  thrombocytopenia: stable at 128
   # goals of care: patient initally expressed passive refusal of
   procedures like ERCP as she states that she does not want to live any
   more.  She also endorses depression and crying spells.  Patient agrees
   to most specific procedures on ICU consent form though does not want
   compressions or shock because she states she witnessed a hospital
   roommate experience this.  Theses seem like two different issues and
   the team agrees that if the patient is refuses a potentially
   life-saving procedure, she should be made full aware of the risks and
   benefits and this should be discussed with her son, her HCP.  Regarding
   DNR status, it seems that this has been reached through thoughtful
   consideration on the patient
s part and we should facilitate the
   communication of this wish between patient and her HCP.
   -discuss with PCP today
   [**Name9 (PRE) **] be present for patient to discuss with son today
   #. Diabetes:
   - Diabetic diet
   - Q6H fingersticks
   - Hold glipizide and give HISS
   ICU Care
   Nutrition: clears for now, advance today
   Prophylaxis:
    -DVT ppx with heparin subcutaneous
   -Bowel regimen with miralex and senna
   -Pain management with acetaminophen
   Communication:  With patient and [**Name (NI) **] son, [**Name (NI) 532**] [**Name (NI) 9864**]:
   [**Telephone/Fax (1) 9865**]
   Code status:  Patient expressed desire to be DNR, no CPR, though would
   allow short term intubation for a short period of time.
   Disposition:  c/o today if gets PICC and CVL pulled
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-11-26**] 12:36 AM
   Multi Lumen - [**2108-11-26**] 02:34 AM
   Arterial Line - [**2108-11-26**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-11-27 11:37:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Norepi weaned off. BC from OSH hosp pos for GNR
   24 Hour Events:
 ARTERIAL LINE - START [**2108-11-26**] 10:00 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Codeine
   Unknown;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-11-26**] 05:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-11-27**] 06:12 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-11-27**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence, depressed
   Allergy / Immunology: No(t) Immunocompromised, Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-11-27**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 82 (75 - 96) bpm
   BP: 101/95(98) {80/38(55) - 151/95(117)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (-2 - 11)mmHg
   Total In:
                                                                  3,221 mL
                                                                    894 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                  2,621 mL
                                                                    894 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    595 mL
   Urine:
                                                                    930 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,291 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), 2/6 sem
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : few basilar mid, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   128 K/uL
   82 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.5 mEq/L
   22 mg/dL
   110 mEq/L
   142 mEq/L
   27.5 %
   9.9 K/uL
        [image002.jpg]
                            [**2108-11-26**]  12:07 AM
                            [**2108-11-26**]  05:19 AM
                            [**2108-11-26**]  02:15 PM
                            [**2108-11-27**]  03:05 AM
   WBC
   9.6
   9.9
   9.9
   Hct
   28.5
   28.0
   27.5
   Plt
   119
   128
   128
   Cr
   0.9
   0.7
   TropT
   0.03
   TCO2
   23
   Glucose
   120
   82
   Other labs: PT / PTT / INR:12.6/25.5/1.1, CK / CKMB /
   Troponin-T:92/4/0.03, ALT / AST:94/34, Alk Phos / T Bili:140/2.2,
   Differential-Neuts:86.4 %, Lymph:9.3 %, Mono:4.1 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:161 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHEST PAIN
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 DIABETES MELLITUS (DM), TYPE II
 .H/O HYPERTENSION, BENIGN
 DEPRESSION
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 CHOLECYSTITIS, CALCULOUS
   BP now improving - weaned off norepi.  starting to take po's today.
   Needs 7d course of abx for GNR in blood.  Will discuss code status with
   her and son (proxy) today. She is clear she wants to be DNR.
   ICU Care
   Nutrition:
   Comments: advancing diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2108-11-26**] 12:36 AM
   Multi Lumen - [**2108-11-26**] 02:34 AM
   Arterial Line - [**2108-11-26**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2108-11-28 07:36:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: Sepsis
   24 Hour Events:
   - PICC placed, CVL pulled
   - TTE obtained, read not yet in OMR
   - Vancomycin stopped yesterday
   - ERCP recs: Repeat ERCP in [**12-16**] month when off plavix for 7 days for
   stone extraction, Should remain on antibiotics for a total of 7 days at
   least (likely needs 14 due to bacteremia)
   -Given trazodone last night for sleep
   - This morning complains of mild back pain
from being in bed,
  and
   complaining that she is
too old for all this stuff
 PICC LINE - START [**2108-11-27**] 02:48 PM
 MULTI LUMEN - STOP [**2108-11-27**] 05:00 PM
   Allergies:
   Codeine
   Unknown;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-11-26**] 05:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-11-28**] 05:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-11-27**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-11-28**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 79 (78 - 96) bpm
   BP: 111/53(75) {91/45(62) - 148/95(104)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,117 mL
                                                                    124 mL
   PO:
                                                                    870 mL
             TF:
   IVF:
                                                                  1,247 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    675 mL
   Urine:
                                                                  1,540 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    577 mL
                                                                   -551 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Gen: NAD
   CV: RRR, with 2/6
   Pulm: Mild crackles at bases b/l
   Abd: +BS, soft, NTND
   Ext: Warm, no edema, 2+ DPs bilaterally
   Labs / Radiology
   128 K/uL
   8.5 g/dL
   108 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   13 mg/dL
   110 mEq/L
   141 mEq/L
   25.6 %
   6.1 K/uL
        [image002.jpg]
                            [**2108-11-26**]  12:07 AM
                            [**2108-11-26**]  05:19 AM
                            [**2108-11-26**]  02:15 PM
                            [**2108-11-27**]  03:05 AM
                            [**2108-11-28**]  03:44 AM
   WBC
   9.6
   9.9
   9.9
   6.1
   Hct
   28.5
   28.0
   27.5
   25.6
   Plt
   119
   128
   128
   128
   Cr
   0.9
   0.7
   0.4
   TropT
   0.03
   TCO2
   23
   Glucose
   120
   82
   108
   Other labs: PT / PTT / INR:12.6/25.5/1.1, CK / CKMB /
   Troponin-T:92/4/0.03, ALT / AST:65/20, Alk Phos / T Bili:149/1.8 (all
   LFTs trending down), Differential-Neuts:86.4 %, Lymph:9.3 %, Mono:4.1
   %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:161 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Blood cx [**11-26**] pending
   Urine cx [**11-26**] final no growth
   No new CXR in OMR
   TTE report not available
   ([**Hospital3 474**] data: Growing GNR in blood, speciation pending)
   Assessment and Plan
   [**Age over 90 **] yo F with history of CAD, subdural hematoma who presented to [**Hospital1 536**] on [**2108-11-24**] with epigastric abdominal pain, vomiting, and
   abnormal LFTs.
   #. Cholangitis and GNR bacteremia: s/p ERCP with stent placement
   [**11-26**].  Likely sepsis related to acute cholangitis given fevers,
   bandemia, abdominal pain, LFT elevations to the 200s, and ERCP findings
   of pustular exudate, stones and sludge.
   - Appreciate ERCP recs
   - Keep patient on Zosyn for cholangitis and UTI coverage (today is day
   4 of 14), may need to redose Zosyn given improved renal function
   - Have stopped Vancomycin, has remained afebrile
   - Hold home antihypertensives
   - [**Hospital **] [**Hospital3 **] blood and urine culture data
   - Received PICC line for Abx
   #. Hypotension: Felt that it was sepsis-related due to GNR bacteremia.
   - Gentle fluid boluses prn-  consider LR given decrease in bicarb, but
   hasn
t needed lately
   - Antibiotics for bacteremia as above
   #. Coronary artery disease:
   - F/u echo results
   - Continue home clopidogrel
   - Hold isosorbide mononitrate, lisinopril, atenolol
 may need to
   restart later today/tomorrow.
   #  Thrombocytopenia: stable at 128 (very stable)
   # Goals of care: patient initally expressed passive refusal of
   procedures like ERCP as she states that she does not want to live any
   more.  She also endorses depression and crying spells.  Patient agrees
   to most specific procedures on ICU consent form though does not want
   compressions or shock because she states she witnessed a hospital
   roommate experience this.  These seem like two different issues and the
   team agrees that if the patient is refuses a potentially life-saving
   procedure, she should be made full aware of the risks and benefits and
   this should be discussed with her son, her HCP.  Regarding DNR status,
   it seems that this has been reached through thoughtful consideration on
   the patient
s part and we should facilitate the communication of this
   wish between patient and her HCP.
   - Discuss with PCP at some point
   - Discuss with family when they come to visit
   - PT consult
   - CM screen for rehab
   #. Diabetes: Fingersticks 90
s to low 200
   - Diabetic diet
   - Q6H fingersticks
   - Hold glipizide and give HISS
   ICU Care
   Nutrition: Advanced yesterday to regular diet
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-11-26**] 10:00 AM
 Will d/c today
   PICC Line - [**2108-11-27**] 02:48 PM
    Will d/c foley today
   Prophylaxis:
   DVT: heparin subcutaneous
   Stress ulcer:
   VAP:
   Comments: Bowel regimen with miralex and senna, Pain management with
   acetaminophen
   Communication:  Comments: With patient and [**Name (NI) **] son, [**Name (NI) 532**]
   [**Name (NI) 9864**]: [**Telephone/Fax (1) 9865**]
   Code status: DNR (do not resuscitate) - Patient expressed desire to be
   DNR, no CPR, though would allow short term intubation for a short
   period of time
   Disposition: Call out today

2108-11-28 10:32:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2108-11-27**] 02:48 PM
 MULTI LUMEN - STOP [**2108-11-27**] 05:00 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Codeine
   Unknown;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-11-26**] 05:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-11-28**] 05:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-11-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias, Back pain
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: [**12-16**] Minimal
   Pain location: back
   Flowsheet Data as of  [**2108-11-28**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 79 (78 - 96) bpm
   BP: 131/57(87) {88/45(62) - 148/73(104)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,117 mL
                                                                    154 mL
   PO:
                                                                    870 mL
             TF:
   IVF:
                                                                  1,247 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    875 mL
   Urine:
                                                                  1,540 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    577 mL
                                                                   -721 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   128 K/uL
   108 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   13 mg/dL
   110 mEq/L
   141 mEq/L
   25.6 %
   6.1 K/uL
        [image002.jpg]
                            [**2108-11-26**]  12:07 AM
                            [**2108-11-26**]  05:19 AM
                            [**2108-11-26**]  02:15 PM
                            [**2108-11-27**]  03:05 AM
                            [**2108-11-28**]  03:44 AM
   WBC
   9.6
   9.9
   9.9
   6.1
   Hct
   28.5
   28.0
   27.5
   25.6
   Plt
   119
   128
   128
   128
   Cr
   0.9
   0.7
   0.4
   TropT
   0.03
   TCO2
   23
   Glucose
   120
   82
   108
   Other labs: PT / PTT / INR:12.6/25.5/1.1, CK / CKMB /
   Troponin-T:92/4/0.03, ALT / AST:65/20, Alk Phos / T Bili:149/1.8,
   Differential-Neuts:86.4 %, Lymph:9.3 %, Mono:4.1 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:161 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHEST PAIN
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 DIABETES MELLITUS (DM), TYPE II
 .H/O HYPERTENSION, BENIGN
 DEPRESSION
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 CHOLECYSTITIS, CALCULOUS
   Continuing to improve from cholangitis/ GNR sepsis. For 2 week course
   of Zosyn.  BP now at baseline with improved UO and creat.  Counts are
   normal.
   ICU Care
   Nutrition:
   Comments: full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2108-11-26**] 10:00 AM
   PICC Line - [**2108-11-27**] 02:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 35 minutes